US08134013B2
tert-Butyl{[5-(hydrazinocarbonyl)thiophene-2-carbonyl]amino}acetate
Methyl 5-(tert-butoxycarbonylmethylcarbamoyl)thiophene-2-carboxylate (63 mg, 0.21 mmol) in ethanol (3.0 mL) was refluexed with heating with hydrazine monohydrate (0.13 mL) for 8 hours and allowed to cool to room temperature. The reaction mixture was concentrated under reduced pressure, and water was added. The precipitated solid was collected by filtration, washed with water and dried to give 44 mg of the desired product (yield 71%).

reactant | Methyl 5-(tert-butoxycarbonylmethylcarbamoyl)thiophene-2-carboxylate | 0.21 mmol, 63 mg | C(C)(C)(C)OC(=O)CNC(=O)C1=CC=C(S1)C(=O)OC | C13H17NO5S
reactant | hydrazine monohydrate | 0.13 mL | O.NN
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
product | tert-Butyl{[5-(hydrazinocarbonyl)thiophene-2-carbonyl]amino}acetate | 44 mg, yield 71% | C(C)(C)(C)OC(CNC(=O)C=1SC(=CC1)C(=O)NN)=O | C12H17N3O4S
